US04348413
A solution of 16.5 grams of 5-bromo-2-methyl aniline and 100 ml. of ethylacetate was added with stirring to a solution of 20 grams of phosgene and 300 ml. of ethylacetate kept at 5° C. After the addition was completed, phosgene was bubbled through the mixture while refluxing for one-half hour. The reaction mixture was purged with nitrogen, then the solvent was removed in vacuo to obtain 17 grams of 5-bromo-2-methylphenylisocyanate. This material was dissolved in 150 ml. of chloroform and added cautiously to a solution of 18.2 grams of 3-chloropropylamine hydrochloride, 150 ml. of chloroform, and 20 ml. of triethylamine. The mixture was refluxed for one-half hour, then cooled and shaken with water. The precipitated solid was separated by filtration. Recrystallization from ethylacetate afforded N-[3-(chloropropylamino)propyl]-N'-(5-bromo-2-methylphenyl)urea, m.p. 145°-148° C.

reactant | 5-bromo-2-methyl aniline | 16.5 grams | BrC=1C=CC(=C(N)C1)C | C7H8BrN
reactant | phosgene | 20 grams | C(=O)(Cl)Cl | CCl2O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 5-bromo-2-methylphenylisocyanate | 17 grams | BrC=1C=CC(=C(C1)N=C=O)C | C8H6BrNO
